US08222219B2
The 1-(β-D-glucopyranosyl)-3-(5-chloro-2-thienylmethyl)-4-fluoronaphthalene obtained in Example 137 was treated in a manner similar to Example 106-(1) to give 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-3-(5-chloro-2-thienylmethyl)-4-fluoronaphthalene. APCI-Mass m/Z 624/626 (M+NH4). (2) The above 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-3-(5-chloro-2-thienylmethyl)-4-fluoronaphthalene was treated in a manner similar to Example 158-(1) to give 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-3-(2-thienylmethyl)-4-fluoronaphthalene. APCI-Mass m/Z 590 (M+NH4). (3) The above 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-3-(2-thienylmethyl)-4-fluoronaphthalene was treated in a manner similar to Example 159-(1) to give 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-3-(5-bromo-2-thienylmethyl)-4-fluoronaphthalene. APCI-Mass m/Z 668/670 (M+NH4). (4) The above 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-3-(5-bromo-2-thienylmethyl)-4-fluoronaphthalene and 3-cyanophenylboronic acid were treated in a manner similar to Example 168 to give 1-(β-D-glucopyranosyl)-3-(5-(3-cyanophenyl)-2-thienylmethyl)-4-fluoronaphthalene. APCI-Mass m/Z 523 (M+NH4).

reactant | 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-3-(5-bromo-2-thienylmethyl)-4-fluoronaphthalene | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=C(C2=CC=CC=C12)F)CC=1SC(=CC1)Br | C29H28BrFO9S
reactant | 3-cyanophenylboronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 1-(β-D-glucopyranosyl)-3-(5-(3-cyanophenyl)-2-thienylmethyl)-4-fluoronaphthalene | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC(=C(C2=CC=CC=C12)F)CC=1SC(=CC1)C1=CC(=CC=C1)C#N | C28H24FNO5S
